US03983111
3α-Hydroxy-2-morpholinopregn-4-ene-11,20-dione
21-Bromo-3α-hydroxypregn-4-ene-11,20-dione (150 mg.) in tetrahydrofuran (5 ml.) was treated with morpholine (0.1 ml.) and the stirred mixture was refluxed under nitrogen for 2 hours, during which time a white precipitate formed. The mixture was partitioned between methylene chloride and water. The aqueous layer was extracted with more methylene chloride and the combined organic extracts were washed with water, dried over sodium sulphate and evaporated to a foam (152 mg.) which was purified by preparative T.L.C. in acetone/petrol 1/1, the main band Rf 0.3-0.45 being separated to give title compound (99 mg.) as a white foam, [α]D + 174° (c 0.12)

reactant | 21-Bromo-3α-hydroxypregn-4-ene-11,20-dione | 150 mg | BrCC([C@H]1CC[C@H]2[C@@H]3CCC4=C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H29BrO3
reactant | morpholine | 0.1 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3α-Hydroxy-2-morpholinopregn-4-ene-11,20-dione | 99 mg | O[C@H]1C=C2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1N1CCOCC1)C)=O)C | C25H37NO4
